US04363804
(1.) Preparation of 5-chloroacetylamino-1-phenylpyrazole
5-amino-1-phenyl pyrazole is reacted with chloroacetic anhydride or chloroacetylchloride at a temperature of from about 25° C. to about 45° C. in a suitable solvent such as tetrahydrofuran, dioxane, dichloromethane and dichloroethane, then refluxed for a suitable period of time.

reactant | 5-amino-1-phenyl pyrazole | NC1=CC=NN1C1=CC=CC=C1 | C9H9N3
reactant | chloroacetic anhydride | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-chloroacetylamino-1-phenylpyrazole | ClCC(=O)NC1=CC=NN1C1=CC=CC=C1 | C11H10ClN3O
